US06376491B1
To a dry tetrahydrofuran (3 ml) solution of 4-[3-(tert-butoxycarbonyl-tert-butyl-amino)-propoxy]-3-methyl-benzofuran-2-carboxylic acid ethyl ester (50 mg) was added lithium diisopropylamide (1.2 ml, 0.5N in THF) at −78° C. After 30 minutes ethyl iodide (160 μl) was added at the same temperature. Then reaction mixture was allowed to warm to ambient temperature and stirred overnight. The reaction mixture was diluted with ethyl acetate and washed with saturated ammonium chloride solution and dried over anhydrous sodium sulfate then concentrated in vacuo to dryness. The residue was purified by silica gel column chromatography developed by dichloromethane-methanol to give 4-[3-(tert-butoxycarbonyl-tert-butyl-amino)-propoxy]-3-propyl-benzofuran-2-carboxylic acid ethyl ester as a pale yellow oil (5.1 mg). FAB-MS: m/z 462 (MH+); 1H-NMR (CDCl3): δ 1.12-1.54 (21H, m), 2.09 (2H, m), 2.75 (3H, s), 3.52 (2H, dd, J=7.6 Hz, 9.9 Hz), 4.09 (2H, t, J=5.9 Hz), 4.43 (2H, q, J=7.3 Hz), 6.61 (1H, d, J=7.9 Hz), 7.12 (1H, d, J=8.6 Hz), 7.31 (1H, dd, J=8.6 Hz, 7.9 Hz).

reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | 4-[3-(tert-butoxycarbonyl-tert-butyl-amino)-propoxy]-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 50 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCN(C(C)(C)C)C(=O)OC(C)(C)C | C24H35NO6
reactant | lithium diisopropylamide | 0.5N, 1.2 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl iodide | 160 μl | C(C)I | C2H5I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[3-(tert-butoxycarbonyl-tert-butyl-amino)-propoxy]-3-propyl-benzofuran-2-carboxylic acid ethyl ester | 5.1 mg | C(C)OC(=O)C=1OC2=C(C1CCC)C(=CC=C2)OCCCN(C(C)(C)C)C(=O)OC(C)(C)C | C26H39NO6
